US08802688B2
To a solution of 5-(methoxycarbonyl)-1H-indole-2-carboxylic acid (2.50 g, 11.4 mmol) in tetrahydrofuran (20 mL) was added 1,1-carbonyldiimidazole (3.70 g, 22.8 mmol). The yellow suspension was stirred for 2 hours. Then concentrated ammonium hydroxide (20 mL) was added and the mixture was stirred at room temperature for 5 hours. The pale green suspension was filtered, washed with water and 5 mL of methanol, and air dried to give methyl 2-carbamoyl-1H-indole-5-carboxylate (2.04 g, 82%) as a colorless solid. 1H NMR (400 MHz, DMSO-d6, δ): 11.93 (br. s., 1 H), 8.32 (d, J=1.2 Hz, 1 H), 8.06 (br. s., 1 H), 7.79 (dd, J=8.6, 1.6 Hz, 1 H), 7.48 (d, J=8.6 Hz, 1 H), 7.45 (br. s., 1 H), 7.27 (s, 1 H), 3.32 (s, 3 H).

reactant | 5-(methoxycarbonyl)-1H-indole-2-carboxylic acid | 11.4 mmol, 2.50 g | COC(=O)C=1C=C2C=C(NC2=CC1)C(=O)O | C11H9NO4
reactant | ammonium hydroxide | 20 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | methyl 2-carbamoyl-1H-indole-5-carboxylate | 2.04 g, 82% | C(N)(=O)C=1NC2=CC=C(C=C2C1)C(=O)OC | C11H10N2O3
